US06281356B1
3-(1-Methyl-6-nitro-1H-indol-3-yl)-4-(1-methyl-6-thiophen-2-yl-1H-indol-3yl)-pyrrole-2,5-dione (180 mg, 37%) was prepared from 3-(6-iodo-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)pyrrole-2,5-dione (525 mg, 1 mmol) and 2-(tributylstannyl)thiophene (0.98 mL, 3.09 mmol).

reactant | 3-(6-iodo-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)pyrrole-2,5-dione | 1 mmol, 525 mg | IC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C22H15IN4O4
reactant | 2-(tributylstannyl)thiophene | 3.09 mmol, 0.98 mL | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
product | 3-(1-Methyl-6-nitro-1H-indol-3-yl)-4-(1-methyl-6-thiophen-2-yl-1H-indol-3yl)-pyrrole-2,5-dione | 180 mg, 37% | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C=1C(NC(C1C1=CN(C2=CC(=CC=C12)C=1SC=CC1)C)=O)=O | C26H18N4O4S
